US04778912
2-(Benzyloxy)-3-(octadecyloxy)propyl 10-trimethylammoniodecyl phosphate
2.34 g (5.4 mmole) of 2-benzyloxy-3-octadecyloxypropanol was dissolved in 20 ml of ethanol-free chloroform and 2.83 g (28.0 mmole) of dry triethylamine was added thereto under ice-cooling. Then, 0.87 g (5.7 mmole) of phosphorus oxychloride in 40 ml of ethanol-free chloroform was further added. The reaction mixture was stirred under ice-cooling for 30 minutes and at room temperature for 1 hour. This reaction mixture was again cooled on an ice bath and 3.00 g (8.07 mmole) of 10-trimethylammoniodecylalcohol monotosylate in 80 ml of dry pyridine was added to the mixture. The resulting mixture was stirred under ice-cooling for 30 minutes and at room temperature for 16 hours. An aqueous solution containing 3.8 g of sodium hydrogencarbonate was added to the reaction mixture and the reaction mixture was concentrated to dryness under reduced pressure. The residue was purified by Amberlite resin column chromatography (IR-120: IRA-410=1:2; eluent: 95% THF) and by silica gel column chromatography (Merck & Co., Art. 7734, eluent: chloroform-methanol:water=65:25:4) to give 1.32 g (yield: 34.3%) of the desired product.

reactant | 2-benzyloxy-3-octadecyloxypropanol | 5.4 mmole, 2.34 g | C(C1=CC=CC=C1)OC(CO)COCCCCCCCCCCCCCCCCCC | C28H50O3
reactant | triethylamine | 28.0 mmole, 2.83 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 5.7 mmole, 0.87 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 10-trimethylammoniodecylalcohol monotosylate | 8.07 mmole, 3.00 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCCCCCCC[N+](C)(C)C
reactant | sodium hydrogencarbonate | 3.8 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 2-(Benzyloxy)-3-(octadecyloxy)propyl 10-trimethylammoniodecyl phosphate | 1.32 g, yield: 34.3% | P(=O)(OCC(COCCCCCCCCCCCCCCCCCC)OCC1=CC=CC=C1)(OCCCCCCCCCC[N+](C)(C)C)[O-] | C41H78NO6P
